US05656629
97% NaH (3.56 g, 0.14 mol) was suspended in DMF (100 ml) and methyl 4-hydroxyphenylacetate (10 g, 0.06 mol) was added. The reaction mixture was stirred for 0.5 hours, then N-(2-chloroethyl)morpholine hydrochloride (11.2 g) was added and the reaction mixture was stirred at room temperature for about 2 days, and then was heated on a steam bath for 2 hours. The reaction mixture was cooled, filtered and the filtrate was stripped. The residue was partitioned between water and ether, the layers were separated and the aqueous layer was extracted with ether. The organic layers were combined, washed with brine, and dried over MgSO4, filtered and concentrated to afford 11.59 g (69%) of methyl 4-[2-(4-morpholinyl)ethoxy]phenylacetate.

reactant | NaH | 0.14 mol, 3.56 g | [H-].[Na+]
reactant | methyl 4-hydroxyphenylacetate | 0.06 mol, 10 g | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | N-(2-chloroethyl)morpholine hydrochloride | 11.2 g | Cl.ClCCN1CCOCC1
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | methyl 4-[2-(4-morpholinyl)ethoxy]phenylacetate | 11.59 g, 69% | N1(CCOCC1)CCOC1=CC=C(C=C1)CC(=O)OC | C15H21NO4
